US08119673B2
(1R)-2-[(5S)-5-{[5-Chloro-2-(1H-tetrazol-1-yl)benzyl]carbamoyl}-4,5-dihydro-1H-pyrazol-1-yl]-1-(4-fluorophenyl)-2-oxoethyl benzoate
To a mixture of (3S)—N—[[5-chloro-2-(tetrazol-1-yl)phenyl]methyl]-2-[(2R)-2-(4-fluorophenyl)-2-hydroxy-acetyl]-3,4-dihydropyrazole-3-carboxamide (0.48 g, 1.05 mmol), pyridine (6 mL, 74 mmol), and DMAP (0.023 g, 0.188 mmol) in CH2Cl2 (8 mL) at −10° C. was added benzoyl chloride (135 μL, 1.15 mmol). The reaction mixture was allowed to attain rt and was stirred for 5 h. Another portion of benzoyl chloride (400 μL, 3.4 mmol) was added. The mixture was stirred for 60 h. LCMS analysis indicated only a trace amount of product. The solvents were removed by evaporation and pyridine (5 mL, 62 mmol) was added followed by another portion of benzoyl chloride (400 μL, 3.4 mmol). The reaction mixture was heated to 70° C. overnight. LCMS analysis indicated approximately 20% conversion of starting material. The solvent was evaporated of and the residue was purified by HPLC (MeCN gradient 0 to 100% in 0.1 M NH4OAc buffer containing 5% MeCN). The relevant fractions were combined and lyophilized to give the title compound (77 mg, 13%) together with 289 mg of unreacted starting material.

reactant | (3S)—N—[[5-chloro-2-(tetrazol-1-yl)phenyl]methyl]-2-[(2R)-2-(4-fluorophenyl)-2-hydroxy-acetyl]-3,4-dihydropyrazole-3-carboxamide | 1.05 mmol, 0.48 g | ClC=1C=CC(=C(C1)CNC(=O)[C@H]1N(N=CC1)C([C@H](O)C1=CC=C(C=C1)F)=O)N1N=NN=C1 | C20H17ClFN7O3
reactant | pyridine | 74 mmol, 6 mL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 1.15 mmol, 135 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | benzoyl chloride | 3.4 mmol, 400 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 62 mmol, 5 mL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 3.4 mmol, 400 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | DMAP | 0.188 mmol, 0.023 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | (1R)-2-[(5S)-5-{[5-Chloro-2-(1H-tetrazol-1-yl)benzyl]carbamoyl}-4,5-dihydro-1H-pyrazol-1-yl]-1-(4-fluorophenyl)-2-oxoethyl benzoate | 77 mg, 13% | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)N1N=CC[C@H]1C(NCC1=C(C=CC(=C1)Cl)N1N=NN=C1)=O)C1=CC=C(C=C1)F | C27H21ClFN7O4
